US08461134B2
4-Amino-N-(1-hydroxy-1,3-dihydrobenzo[c][1,2]oxaborol-6-yl)-2-(3-hydroxypropyl)benzenesulfonamide
A mixture of ethyl 3-(2-(N-(1-hydroxy-1,3-dihydrobenzo[c][1,2]oxaborol-6-yl)sulfamoyl)-5-(2,2,2-trifluoroacetamido)phenyl)propanoate (1.6 g, 3.2 mmol), and NaBH4 (0.48 g, 12.8 mmol) in THF (30 mL) was stirred at 0° C. Then CH3OH (1 ml) was added dropwise into the mixture and stirred at r.t. overnight. The solvent was evaporated and the residue was extracted with EtOAc, washed with brine, dried over Na2SO4 and concentrated to give the crude product. The residue was purified by prep-HPLC (column: YMC 150×30.0 mm, 20μ; liquid phase: [A-H2O; B-MeCN+0.1% TFA] B %: 12%-42%, 10 min) to give the title compound, which was dissolved in MeCN, acidified with aq. HCl and freeze-dried to give the product as hydrochloride salt (280 mg, yield 70%). 1H NMR (400 MHz, DMSO-d6): δ9.97 (s, 1H), 7.57-7.09 (m, 6H), 4.83 (s, 2H), 3.46-3.42 (m, 2H), 2.83-2.79 (m, 2H), 1.66-1.62 (m, 2H); ESI-MS m/z 385 (M+Na, positive); HPLC purity: 94.25% (MaxPlot 190-370 nm), 94.25% (220 nm).

reactant | ethyl 3-(2-(N-(1-hydroxy-1,3-dihydrobenzo[c][1,2]oxaborol-6-yl)sulfamoyl)-5-(2,2,2-trifluoroacetamido)phenyl)propanoate | 3.2 mmol, 1.6 g | OB1OCC2=C1C=C(C=C2)NS(=O)(=O)C2=C(C=C(C=C2)NC(C(F)(F)F)=O)CCC(=O)OCC | C20H20BF3N2O7S
reactant | NaBH4 | 12.8 mmol, 0.48 g | [BH4-].[Na+]
reactant | CH3OH | 1 ml | CO | CH4O
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | 4-Amino-N-(1-hydroxy-1,3-dihydrobenzo[c][1,2]oxaborol-6-yl)-2-(3-hydroxypropyl)benzenesulfonamide | NC1=CC(=C(C=C1)S(=O)(=O)NC=1C=CC2=C(B(OC2)O)C1)CCCO | C16H19BN2O5S
